US05552554
Preparation of 5-Methyl-5-(4-phenoxyphenyl)-3-phenylamino-2,4-oxazolidinedione Using Pre-Formed 1,1'-Carbonyldiimidazole
A mixture of 14.3 g of ethyl 2-(4-phenoxyphenyl)lactate (34 g of a mixture containing 14.3 g of ethyl 2-(4-phenoxyphenyl)lactate and 19.7 g of diphenyl ether), 9.7 g of 1,1'-carbonyldiimidazole and 100 mL of methylene chloride was agitated at 25° C. for 19 h. Water (0.30 mL) was added and the mixture was agitated for 15 min. Then, 5 mL of acetic acid and 7.4 g of phenylhydrazine were added. After agitating at 25° C. for 24 h, 100 mL of water was added. The pH was lowered to 2 with hydrochloric acid, and the aqueous layer was removed. After washing the methylene chloride layer with 50 mL of water, the solvent was evaporated under vacuum. The oily residue was mixed with 150 mL hexane and 15 mL of ethyl acetate, heated to 65° C., cooled to 20° C., and then filtered. The solids were washed with 100 mL of a mixture of 20 mL ethyl acetate and 80 mL of hexane and then dried. The title product (15.2 g) was obtained with a m.p. of 137°-139° C.

reactant | ethyl 2-(4-phenoxyphenyl)lactate | 14.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)(O)C | C17H18O4
reactant | ethyl 2-(4-phenoxyphenyl)lactate | 14.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)(O)C | C17H18O4
reactant | diphenyl ether | 19.7 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 1,1'-carbonyldiimidazole | 9.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | phenylhydrazine | 7.4 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | Water | 0.30 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-5-(4-phenoxyphenyl)-3-phenylamino-2,4-oxazolidinedione | 15.2 g | CC1(C(N(C(O1)=O)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18N2O4
